US04515626
Production of 2-cyclopropyl-4-methoxy-6-trichloromethyl-1,3,5-triazine
To a solution of 48 g of 2-cyclopropyl-4,6-bis-(trichloromethyl)-1,3,5-triazine in 200 ml of MeOH are added, with stirring, 4.9 g of sodium methylate, and the mixture is stirred for 1 hour at room temperature; it is then filtered and the filtrate is evaporated to dryness. The yield is 28.5 g of the title compound as a light-red oil, which solidifies after some time, m.p. 49°-51° C.

reactant | 2-cyclopropyl-4,6-bis-(trichloromethyl)-1,3,5-triazine | 48 g | C1(CC1)C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl | C8H5Cl6N3
reactant | sodium methylate | 4.9 g | C[O-].[Na+]
solvent | MeOH | 200 ml | CO | CH4O
product | 2-cyclopropyl-4-methoxy-6-trichloromethyl-1,3,5-triazine | C1(CC1)C1=NC(=NC(=N1)OC)C(Cl)(Cl)Cl | C8H8Cl3N3O
